US04883815
1155 g (6.4 mol) of 6-chloro-3,4-dihydro-2(1H)-naphthalenone are dissolved in 5 l of toluene, 500 g (7.0 mol) of pyrrolidine and subsequently a solution of 26 g (0.14 mol) of p-toluenesulfonic acid monohydrate in toluene are added dropwise thereto and the mixture is boiled under reflux on a water separator. When about 120 ml of water have separated, 4 l of toluene are distilled and the mixture is left to cool slowly. A solid thereby crystallizes out. Filtration and washing with acetone gives 1-(6-chloro-3,4-dihydro-2-naphthyl)-pyrrolidine with melting point 117°-118°. Concentration of the mother liquor, suspension of the residue in ether, filtration and washing with acetone gives an additional portion of the above product with melting point 117°-118°.

reactant | 6-chloro-3,4-dihydro-2(1H)-naphthalenone | 6.4 mol, 1155 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | pyrrolidine | 7.0 mol, 500 g | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | 0.14 mol, 26 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 5 l | C1(=CC=CC=C1)C | C7H8
product | 1-(6-chloro-3,4-dihydro-2-naphthyl)-pyrrolidine | ClC=1C=C2CCC(=CC2=CC1)N1CCCC1 | C14H16ClN
